US05574044
A mixture of 4.5 g N-t-butyloxycarbonyl-4-piperidone, 4.7 g of 4-(5-methyl-2-oxo-1-benzimidazolinyl)piperidine, 65 mL of 1,2-dichloroethane, 1.3 mL of glacial acetic acid and 6.4 g of sodium triacetoxyborohydride was stirred at room temperature for 48 h. The reaction mixture was poured into 500 mL chloroform and 500 mL saturated aqueous Na2CO3 and the layers separated. The aqueous layer was extracted with 2×250 mL of chloroform and the combined organic layers dried over MgSO4 and concentrated under reduced pressure. Recrystallization of the crude product from 50 mL of ethyl acetate gave in two crops 6.18 g of pure 5-methyl-1,3-dihydro-1-{1-[1-(t-butyloxycarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one as a white solid: mp 210°-211° C.

reactant | N-t-butyloxycarbonyl-4-piperidone | 4.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-(5-methyl-2-oxo-1-benzimidazolinyl)piperidine | 4.7 g | CC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C13H17N3O
reactant | sodium triacetoxyborohydride | 6.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 500 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1.3 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 65 mL | ClCCCl | C2H4Cl2
product | 5-methyl-1,3-dihydro-1-{1-[1-(t-butyloxycarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one | 6.18 g | CC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C23H34N4O3
